US07745451B2
B. 5,6,7,8-Tetrahydro-N-(4-(trifluoromethylsulfonyl)phenyl)pyrido[4,3-d]pyrimidin-4-amine
6-Benzyl-5,6,7,8-tetrahydro-N-(4-(trifluoromethylsulfonyl)phenyl)pyrido[4,3-d]pyrimidin-4-amine (270 mg, 0.55 mmol) was dissolved in anhydrous chloroform (10 mL) and 1-chloroethylchloroformate was added (0.18 mL, 1.65 mmol). After stirring for 30 min, N,N-diisopropylethylamine was added (0.24 mL, 1.65 mmol) and the mixture was stirred for an additional 2 h. The chloroform was removed under vacuum and 30 ml of methanol was added and the mixture was heated for 30 min. Upon reaction completion, the methanol was removed and the residue was dissolved in ethyl acetate and washed with sat. NaHCO3 and brine. The organic layer was dried over Na2SO4, filtered and evaporated to give the product (163 mg, 83%).

reactant | 6-Benzyl-5,6,7,8-tetrahydro-N-(4-(trifluoromethylsulfonyl)phenyl)pyrido[4,3-d]pyrimidin-4-amine | 0.55 mmol, 270 mg | C(C1=CC=CC=C1)N1CC2=C(N=CN=C2NC2=CC=C(C=C2)S(=O)(=O)C(F)(F)F)CC1 | C21H19F3N4O2S
reactant | 1-chloroethylchloroformate | ClC(C)OC(=O)Cl | C3H4Cl2O2
reactant | N,N-diisopropylethylamine | C(C)(C)N(C(C)C)CC | C8H19N
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
product | 5,6,7,8-Tetrahydro-N-(4-(trifluoromethylsulfonyl)phenyl)pyrido[4,3-d]pyrimidin-4-amine | 163 mg, 83% | FC(S(=O)(=O)C1=CC=C(C=C1)NC=1C2=C(N=CN1)CCNC2)(F)F | C14H13F3N4O2S
